US06043286
Preparation of 2-cyclohexyl-3-hydroxy-naphthalene-1.4-dione
To a stirred solution of 2-hydroxynaphthalene-1,4-dione (1.00 g, 5.74 mmol), cyclohexane carboxylic acid (1.10 g, 8.61 rnmol) and silver nitrate (520 mg) in acetonitrile (15 ml) and water (20 ml) heated at 65-70° C. was added an aqueous solution of ammonium persulphate (1.77 g, 7.77 mmol) in water (10 ml). After heating for 1 hour the mixture was cooled, diluted with water (50 ml) and extracted with ether (3×40 ml). The combined ether fractions were washed with water (3×25ml), saturated sodium chloride solution (25 ml) and dried over magnesium sulphate. Filtration and evaporation of solvents under reduced pressure and silica gel chromatography yielded the title compound (364 mg, m.p. 133° C.). This compound is listed as compound 12 in the Tables below.

reactant | 2-hydroxynaphthalene-1,4-dione | 5.74 mmol, 1.00 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | cyclohexane carboxylic acid | 1.10 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | ammonium persulphate | 7.77 mmol, 1.77 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 50 ml | O | H2O
catalyst | silver nitrate | 520 mg | [N+](=O)([O-])[O-].[Ag+]
product | 2-cyclohexyl-3-hydroxy-naphthalene-1.4-dione | 364 mg | C1(CCCCC1)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C16H16O3
